* sg13g2-lna -- Option-A bias-reference first-increment core, DC op mini-grid
* (issue #33 / DR-0003 supply-independence evidence).
* Generated from sim/biasref-topology/testbench/tb_core_minigrid.spice.tmpl
* by sim/biasref-topology/run_biasref_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run.
*
* Generated for: MOS_SECTION=mos_tt HBT_SECTION=hbt_typ
* TEMP=-40 C VDD=1.98 V
*
* THE DUT: the self-biased Widlar PTAT skeleton of DR-0003 Option A --
* the supply-independent stage the flat-reference core builds on. Its
* parts, all real PDK compact models (no ideal subst):
*   XMb/XQb/Rp : the degenerated feedback leg (diode-connected
*                sg13_hv_pmos over npn13G2 Nx=8, emitter -> Rp -> vss)
*                -- the PMOS-diode's drain+gate node nc_b is the
*                mirror-gate node; HV flavour per DR-0001's binding
*                "any MOS in the bias network must be the HV flavour"
*                constraint (1.98 V > the 1.6 V LV VDS/VGS max).
*   XMa/XQa    : the plain-diode leg (nxn13G2 Nx=1 diode at nc_a) whose
*                base is cross-coupled to XQb's base -- this
*                cross-coupled pair is what makes the cell
*                supply-independent (a diode-connected PMOS over the
*                PLAIN leg instead is a voltage feed: verified dead in
*                this bench's development history, see README.md).
*   Rseed      : the startup seed -- the classic PTAT-loop degenerate
*                zero-current state is a genuine latch surface (measured:
*                without the seed, ngspice op finds the dead branch at
*                most cells), so a 10 Meg seed guarantees the loop
*                bootstrap. The supply-ramp startup check lives in
*                tb_core_startup.spice.tmpl.
*   XMk/XQ3    : the output copy (w=210u: a 21:1 mirror of the 10u loop
*                legs) into the Q3 reference-island diode, the same
*                island load the committed design/netlist/lna.spice
*                biases (its Nx=1 density-match to Q1 Nx=8). The island
*                current is read through XQ3's own operating-point
*                collector current -- no ammeter fixture, no hidden
*                current source.
*
* WHAT THIS MEASURES: the DC op of that core over the corner box
* {typ,bcs,wcs} x {-40,27,125} C x {1.62,1.80,1.98} V, with the MOS
* corner mapped per sim/README.md's convention (typ->mos_tt,
* bcs->mos_ff, wcs->mos_ss). The two claims these rows evidence:
*   1. supply independence: at fixed corner/T the island current moves
*      <1% over the full +/-10% VDD swing (the committed R3a feed
*      family moved ~19% -- see README.md's decomposition of the
*      committed record).
*   2. the residual tone is PTAT-shaped (hot/nom ~1.35): this skeleton
*      is NOT the flat core -- DR-0003's Stage 2 (amp-servo mixed-tone
*      output) is what flattens it. No flatness claim is made here.
*
* NO RF claim lives here; the LNA itself is not instantiated. No
* conformance to any spec/target-spec.md row is claimed.

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ
.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_tt
.options temp=-40 tnom=27

Vvdd vdd 0 dc 1.98
Vssa vss 0 dc 0

XMb nc_b nc_b vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQb nc_b nc_a nc_e vss npn13G2 Nx=8
Rp  nc_e vss 3.4k
XMa nc_a nc_b vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQa nc_a nc_a vss vss npn13G2 Nx=1
Rseed vdd nc_a 10meg
XMk bref nc_b vdd vdd sg13_hv_pmos w=210u l=1u ng=1 m=1
XQ3 bref bref vss vss npn13G2 Nx=1

.control
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
op
let iq3  = @q.xq3.qnpn13g2[ic]
let iqa  = @q.xqa.qnpn13g2[ic]
let vbref = v(bref)
let vna  = v(nc_a)
let vsdb = vdd - v(nc_b)
echo "BIASREF iq3 $&iq3 iqa $&iqa vbref $&vbref vna $&vna vsdb $&vsdb"
echo "BENCH_COMPLETE"
quit
.endc
.end
